US05114903
2,2'-methylene-bis(4-ethyl-6-tertiarybutyl phenol);
4-hydroxycoumarin; 7-hydroxy-4-methylcoumarin; 2,2'-methylene-bis(4-octylphenol); 4,4'-sulfonyldiphenol; 4,4'-thiobis(6-tertiarybutyl-m-cresol); methyl-p-hydroxybenzoate;

reactant | 4-hydroxycoumarin | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | 7-hydroxy-4-methylcoumarin | OC1=CC=C2C(=CC(OC2=C1)=O)C | C10H8O3
reactant | 2,2'-methylene-bis(4-octylphenol) | C(C1=C(C=CC(=C1)CCCCCCCC)O)C1=C(C=CC(=C1)CCCCCCCC)O | C29H44O2
reactant | 4,4'-sulfonyldiphenol | S(=O)(=O)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C12H10O4S
reactant | 4,4'-thiobis(6-tertiarybutyl-m-cresol) | S(C=1C(=CC(=C(C1)C(C)(C)C)O)C)C=1C(=CC(=C(C1)C(C)(C)C)O)C | C22H30O2S
reactant | methyl-p-hydroxybenzoate | COC(C1=CC=C(C=C1)O)=O | C8H8O3
product | 2,2'-methylene-bis(4-ethyl-6-tertiarybutyl phenol) | C(C1=C(C(=CC(=C1)CC)C(C)(C)C)O)C1=C(C(=CC(=C1)CC)C(C)(C)C)O | C25H36O2
